US08629168B2
b) 1-Bromomethyl-2-methyl-4-nitro-benzene
To a solution of 4.55 g (27.2 mmol) (2-methyl-4-nitro-phenyl)-methanol 10.8 g (40.8 mmol) triphenylphosphine and 13.7 g (40.8 mmol) carbon tetrabromide is added at 0° C. The reaction mixture is stirred at room temperature for 1 h. After that the reaction mixture is filtered and the filtrate is concentrated in vacue. The residue is purified by chromatography (silicagel, 100% hexane=>100% EtOAc) to afford the title compound as an oil.

reactant | (2-methyl-4-nitro-phenyl)-methanol | 27.2 mmol, 4.55 g | CC1=C(C=CC(=C1)[N+](=O)[O-])CO | C8H9NO3
reactant | carbon tetrabromide | 40.8 mmol, 13.7 g | C(Br)(Br)(Br)Br | CBr4
product | 1-Bromomethyl-2-methyl-4-nitro-benzene | BrCC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H8BrNO2
